US04316861
311 Parts of 2,4-dinitroaniline are stirred in 2600 parts of toluene with 312 parts of chlorosulfonyl isocyanate for 4hours at 80° C. At 25° C., 360 parts of water are added to the resulting suspension of N-2,4-dinitrophenyl- N'-chlorosulfonyl urea without intermediate isolation of the latter, and the mixture obtained is saponified at 60° C. within 4 hours to yield 2,4-dinitrophenyl urea. After diluting it with water, the mixture is filtered, while hot, and the product is washed with hot toluene and water. After drying in vacuo, there are obtained 347 parts of 2,4-dinitrophenyl urea having a melting point of from 195° to 197° C.

reactant | 2,4-dinitroaniline | [N+](=O)([O-])C1=C(N)C=CC(=C1)[N+](=O)[O-] | C6H5N3O4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | chlorosulfonyl isocyanate | ClS(=O)(=O)N=C=O | CClNO3S
solvent | water | O | H2O
product | 2,4-dinitrophenyl urea | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])NC(=O)N | C7H6N4O5
